US06352993B1
2-(4-Fluorophenylamino)-5-methoxymethyl-6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinoline-2-yl)pyrimidine hydrochloride
2-(4-Fluorophenylamino)-6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquino-line-2-yl)pyrimidine (0.9 g, 2.58 mmol) was added to chloromethyl methyl ether (3 ml) in a sealed tube. The mixture was stirred at 80° C. for 1 day. After cooling to room temperature, ethyl ether was added to mixture. Resulting solid was removed by filtration. Filtrate was washed with aqueous 2N NaOH solution, dried over sodium sulfate, and concentrated under reduced pressure. Crude product was purified with a silica gel column chromatography (eluent: ethyl acttate:hexane=1:3). Purified compound was treated with HCl solution in ethyl ether. Precipitated solid was isolated by filtration, washed with ethyl ether, and dried in vacuum. It gave 0.6 mg of the titled compound.

reactant | 2-(4-Fluorophenylamino)-6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquino-line-2-yl)pyrimidine | 2.58 mmol, 0.9 g | FC1=CC=C(C=C1)NC1=NC(=CC(=N1)N1C(C2=CC=CC=C2CC1)C)C | C21H21FN4
reactant | chloromethyl methyl ether | 3 ml | COCCl | C2H5ClO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(4-Fluorophenylamino)-5-methoxymethyl-6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinoline-2-yl)pyrimidine hydrochloride | 0.6 mg, Yield: 0.05% | Cl.FC1=CC=C(C=C1)NC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)COC)C | InChI=1S/C23H25FN4O.ClH/c1-15-21(14-29-3)22(27-23(25-15)26-19-10-8-18(24)9-11-19)28-13-12-17-6-4-5-7-20(17)16(28)2;/h4-11,16H,12-14H2,1-3H3,(H,25,26,27);1H
